US07851626B2
rac-[(4S*,5R*)-2-(4-tert-Butyl-2-isopropoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazol-1-yl]-[4-(2-morpholin-4-yl-ethyl)-piperazin-1-yl]-methanone
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-2-(4-tert-butyl-2-isopropoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 4-(2-piperazin-1-yl-ethyl)-morpholine (Aldrich) to give the title compound. HR-MS (ES, m/z) calculated for C41H54N5O3Cl2 [(M+H)+] 734.3598, observed 734.3600.

reactant | rac-(4S*,5R*)-2-(4-tert-butyl-2-isopropoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | C(C)(C)(C)C1=CC(=C(C=C1)C=1N(C(C(N1)(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C(=O)Cl)OC(C)C | C31H33Cl3N2O2
reactant | 4-(2-piperazin-1-yl-ethyl)-morpholine | N1(CCNCC1)CCN1CCOCC1 | C10H21N3O
product | rac-[(4S*,5R*)-2-(4-tert-Butyl-2-isopropoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazol-1-yl]-[4-(2-morpholin-4-yl-ethyl)-piperazin-1-yl]-methanone | C(C)(C)(C)C1=CC(=C(C=C1)C=1N([C@]([C@](N1)(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CCN1CCOCC1)OC(C)C | C41H53Cl2N5O3
